US04684656
A suspension of thiourea (38 g, 50.0 mmole) in dry tetrahydrofuran (40 ml) was cooled to 0° C. under argon and was treated dropwise with 4-methoxybenzylchloride (8.0 g, 50.0 mmole). After the addition was completed, the cooling bath was removed and the reaction was allowed to stir at room temperature for 2 hours. It was then heated at 60-65° C. for 4 hours whereupon a colorless voluminous precipitate was formed. The reaction was allowed to cool down to room temperature and was, diluted with anhydrous ether. The solid was filtered off and washed with anhydrous ether to give 10.92 g of 2-(4-methoxybenzyl)-2-thiopseudourea, hydrochloride, melting point 161-163.5° C. Analysis Calc'd. for C9H12N2OS.HCl: C, 46.45; H, 5.63; N, 12.04; S, 13.78; Cl, 15.23. Found: C, 46.48; H, 5.64; N, 12.25; S, 13.74; Cl, 15.31.

reactant | thiourea | 50.0 mmole, 38 g | NC(=S)N | CH4N2S
reactant | 4-methoxybenzylchloride | 50.0 mmole, 8.0 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-(4-methoxybenzyl)-2-thiopseudourea, hydrochloride | 10.92 g | Cl.COC1=CC=C(CSC(N)=N)C=C1 | InChI=1S/C9H12N2OS.ClH/c1-12-8-4-2-7(3-5-8)6-13-9(10)11;/h2-5H,6H2,1H3,(H3,10,11);1H
